US07432287B2
Preparation of 3-(3-fluoro-4-methanesulfonylphenoxy)-5-(2-hydroxy-1-methyl-ethoxy)-N-thiazol-2-yl-benzamide
The compound of Production Example 42 was obtained as a colorless oil using the obtained 5-((1S)-2-(t-butyldimethylsiloxy)-1-methyl-ethoxy)-3-(3-fluoro-4-methanesulfonyl-phenoxy)-benzoic acid methyl ester and 2-amino-thiazole, by the same method as in Production Example 2, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-((1S)-2-(t-butyldimethylsiloxy)-1-methyl-ethoxy)-3-(3-fluoro-4-methanesulfonyl-phenoxy)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C)OC1=CC(=C(C=C1)S(=O)(=O)C)F)=O | C24H33FO7SSi
reactant | 2-amino-thiazole | NC=1SC=CN1 | C3H4N2S
product | 3-(3-fluoro-4-methanesulfonylphenoxy)-5-(2-hydroxy-1-methyl-ethoxy)-N-thiazol-2-yl-benzamide | FC=1C=C(OC=2C=C(C(=O)NC=3SC=CN3)C=C(C2)OC(CO)C)C=CC1S(=O)(=O)C | C20H19FN2O6S2
